US09303000B2
Synthesis of (Z)-3-(3-(3-chloro-5-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid
In a 100 mL, 3-neck round-bottomed flask equipped with nitrogen inlet, and a rubber septum, (Z)-isopropyl 3-(3-(3-chloro-5-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-1-yl)acrylate (0.750 g, 1.0 eq.) was dissolved in THF (30 mL, 40 V) and H2O (30 mL, 40 V). The reaction mixture was added LiOH (0.419 g, 5 eq.). The reaction mixture was stirred at room temperature. The progress of the reaction was followed by TLC analysis on silica gel with 20% ethyl acetate in hexane as mobile phase. Reaction mixture was Quenched in 500 ml water and made acidic by dilute HCl. The aqueous layer was extracted with ethyl acetate. The organic layer were washed with Brine solution, dried over NaSO4 and distilled under reduce pressure to obtain 0.620 g (93.23%) crude material.

reactant | (Z)-isopropyl 3-(3-(3-chloro-5-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-1-yl)acrylate | 0.750 g, 1.0 eq. | ClC=1C=C(C=C(C1)OC(F)(F)F)C1=NN(C=N1)\C=C/C(=O)OC(C)C | C15H13ClF3N3O3
reactant | LiOH | 0.419 g, 5 eq. | [Li+].[OH-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | H2O | 30 mL | O | H2O
solvent | hexane | CCCCCC | C6H14
product | (Z)-3-(3-(3-chloro-5-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid | 0.620 g, 93.23% | ClC=1C=C(C=C(C1)OC(F)(F)F)C1=NN(C=N1)\C=C/C(=O)O | C12H7ClF3N3O3
